US05292926
N-(2-Mercapto-2-Methylpropionyl)-L-Cysteine Methyl Ester (Compound No. 16)
To a solution of N-(2-mercapto-2-methylpropionyl)-L-cysteine (1.0 g) in ether(3 ml), diazomethane dissolved in ether(12 ml) was added dropwise under ice-cooling. After the addition, acetic acid was added to the reaction mixture. The reaction mixture was washed with saturated sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 1.0 g(94%) of the titled compound.

reactant | N-(2-mercapto-2-methylpropionyl)-L-cysteine | 1.0 g | SC(C(=O)N[C@@H](CS)C(=O)O)(C)C | C7H13NO3S2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | 3 ml | CCOCC | C4H10O
solvent | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | 12 ml | CCOCC | C4H10O
product | N-(2-Mercapto-2-Methylpropionyl)-L-Cysteine Methyl Ester | 1.0 g, 94% | COC([C@@H](NC(C(C)(C)S)=O)CS)=O | C8H15NO3S2
